US09422282B2
Benzyloxy-Acetic Acid Methyl Ester
Benzyloxyacetyl chloride was added slowly to 10 vol of MeOH at 0-5° C. The mixture was stirred at room temperature for 20 h. MeOH was removed under vacuum to give quantitatively the desired product.

reactant | Benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | MeOH | CO | CH4O
product | Benzyloxy-Acetic Acid Methyl Ester | COC(COCC1=CC=CC=C1)=O | C10H12O3
